US04567052
N-(1-Acetyloxy-2,2,2-trichloroethyl)-3-(2,3-dichlorophenyl)-4-cyano pyrrole
1.2 ml of chloral and 1.8 ml of triethylamine are added dropwise in succession to 2.4 g of 3-(2,4-dichlorophenyl)-4-cyanopyrrole in 50 ml of tetrahydrofuran. The reaction mixture is stirred for 11/2 hours at 25° C., then 0.1 g of 4-dimethylaminopyridine is added and the mixture is cooled to -10° C. A solution of 0.9 ml of acetyl chloride in 10 ml of tetrahydrofuran is added very slowly dropwise at -10° to -5° C. and the reaction mixture is subsequently stirred for 30 minutes at 0° C. and then for 1 hour at room temperature, and filtered. The filtrate is concentrated and the residue is dissolved in diethyl ether. The ethereal solution is washed twice with a semi-saturated solution of sodium chloride, dried over sodium sulfate, and filtered. The filtrate is concentrated and the crude product is recrystallised from diethyl ether/petroleum ether to give colourless crystals of the title compound with a melting point of 111°-113° C.

reactant | chloral | 1.2 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2,4-dichlorophenyl)-4-cyanopyrrole | 2.4 g | ClC1=C(C=CC(=C1)Cl)C1=CNC=C1C#N | C11H6Cl2N2
reactant | acetyl chloride | 0.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(1-Acetyloxy-2,2,2-trichloroethyl)-3-(2,3-dichlorophenyl)-4-cyano pyrrole | C(C)(=O)OC(C(Cl)(Cl)Cl)N1C=C(C(=C1)C#N)C1=C(C(=CC=C1)Cl)Cl | C15H9Cl5N2O2
